
M522515443 N004 vinn N006 VDD PMOS l=0.18u w=4u
M302349436 N004 vinp N005 VDD PMOS l=0.18u w=4u
M12435074 VDD vb1 N002 VDD PMOS l=0.18u w=4u
M978041860 VDD N001 N001 VDD PMOS l=0.18u w=4u
M537900337 VDD N001 N003 VDD PMOS l=0.18u w=4u
M610153291 N001 vb4 vb4 VDD PMOS l=0.18u w=4u
M142350304 N003 vb4 vout VDD PMOS l=0.18u w=4u
M889022386 vout vb3 N005 0 NMOS l=0.18u w=2u
M257008317 N005 vb2 0 0 NMOS l=0.18u w=2u
M752411452 vb4 vb3 N006 0 NMOS l=0.18u w=2u
M139895976 N006 vb2 0 0 NMOS l=0.18u w=2u
VDD VDD 0 1.8
C646020964 vout 0 1p
M106006567 N002 vb5 N004 VDD PMOS l=0.18u w=4u
